US07648985B2
N-(2-{7-[2-(3,4-Bis(difluoromethoxy)phenyl)ethyl]-9-oxa-3,7-diazabicyclo-[3.3.1]non-3-yl}ethyl)-4-cyanobenzenesulfonamide
A mixture of 4-cyano-N-[2-(9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)ethyl]-benzenesulfonamide (0.3 g, 7.5 mmol; see Preparation E above), 4-(2-bromo-ethyl)-1,2-bis(difluoromethoxy)benzene (0.26 g, 9 mmol; see Preparation G above) and potassium carbonate (0.41 g, 30 mmol) was stirred at 60° C. overnight under a nitrogen atmosphere. The reaction mixture was filtered and solvent was evaporated under reduced pressure. The residue was purified by column chromatography, using methanol in chloroform as eluent, to yield the title compound as a white solid. Yield: 0.23 g.

reactant | 4-cyano-N-[2-(9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)ethyl]-benzenesulfonamide | 7.5 mmol, 0.3 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)NCCN1CC2CNCC(C1)O2 | C15H20N4O3S
reactant | 4-(2-bromo-ethyl)-1,2-bis(difluoromethoxy)benzene | 9 mmol, 0.26 g | BrCCC1=CC(=C(C=C1)OC(F)F)OC(F)F | C10H9BrF4O2
reactant | potassium carbonate | 30 mmol, 0.41 g | C([O-])([O-])=O.[K+].[K+]
product | N-(2-{7-[2-(3,4-Bis(difluoromethoxy)phenyl)ethyl]-9-oxa-3,7-diazabicyclo-[3.3.1]non-3-yl}ethyl)-4-cyanobenzenesulfonamide | FC(OC=1C=C(C=CC1OC(F)F)CCN1CC2CN(CC(C1)O2)CCNS(=O)(=O)C2=CC=C(C=C2)C#N)F | C25H28F4N4O5S
